US05728500
33.85 g (0.2 mol) of 5-aminoacenaphtthene was mixed with 102.1 g (0.5 mol) of iodo benzene, 1.3 g (0.02 mol) of copper powder, 34.5 g (0.25 mol) of anhydrous potassium carbonate and 100 ml of nitrobenzene, and the mixture was stirred at 200° C. for 26 hours. The reaction was determined to be finished when disappearance of 5-aminoacenaphthene and 5-(N-phenylamino)acenaphthene as an intermediate was identified. 300 ml of toluene was added thereto to dissolve a product, and the resultant mixture was filtrated and concentrated. The concentrated product was purified by column chromatography (carrier: silica gel, eluent: toluene/hexane=1/4) to obtain 48.7 g (yield: 75.7%, melting point: 168.5°-170.5° C.) of 5-(N,N-diphenylamino)acenaphthene.

reactant | iodo benzene | 0.5 mol, 102.1 g | IC1=CC=CC=C1 | C6H5I
reactant | potassium carbonate | 0.25 mol, 34.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 100 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | 5-aminoacenaphthene | NC1=CC=C2CCC=3C=CC=C1C32 | C12H11N
reactant | 5-(N-phenylamino)acenaphthene | C1(=CC=CC=C1)NC1=CC=C2CCC=3C=CC=C1C32 | C18H15N
catalyst | copper | 0.02 mol, 1.3 g | [Cu] | Cu
solvent | toluene | 300 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(N,N-diphenylamino)acenaphthene | 48.7 g, yield: 75.7% | C1(=CC=CC=C1)N(C1=CC=CC=C1)C1=CC=C2CCC=3C=CC=C1C32 | C24H19N
